US09302991B2
<Step-1>: methyl 2-(cyclopropanecarboxamido)pyrimidine-4-carboxylate
The title compound is prepared in quantitative yield (1.93 g, a pale yellow solid) from methyl 2-chloropyrimidine-4-carboxylate (1.50 g, 8.69 mmol) and cyclopropanecarboxamide by the similar manner in Step-1 of Carboxylic acid-4.

reactant | methyl 2-chloropyrimidine-4-carboxylate | 8.69 mmol, 1.50 g | ClC1=NC=CC(=N1)C(=O)OC | C6H5ClN2O2
reactant | cyclopropanecarboxamide | C1(CC1)C(=O)N | C4H7NO
product | methyl 2-(cyclopropanecarboxamido)pyrimidine-4-carboxylate | quantitative yield | C1(CC1)C(=O)NC1=NC=CC(=N1)C(=O)OC | C10H11N3O3
